US06919331B2
A solution of 4-chloro-3-nitrobenzonitrile (18.3 g, 0.10 mol) and isoamylamine (19.2 g, 0.22 mol) in DMF (250 mL) was heated to 90° C. for 4 h under nitrogen then cooled and the solvent evaporated. The residue is triturated with EtOAc (300 mL) and solids removed by filtration. The filtrate was washed with water and brine. The organic layer was dried over MgSO4 and evaporated. The residue was recrystallized from MeOH to give 21.0 g (90%) of 4-(3-methyl-butylamino)-3-nitro-benzonitrile as a yellow crystalline solid.

reactant | 4-chloro-3-nitrobenzonitrile | 0.10 mol, 18.3 g | ClC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | isoamylamine | 0.22 mol, 19.2 g | C(CC(C)C)N | C5H13N
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 4-(3-methyl-butylamino)-3-nitro-benzonitrile | 21.0 g, 90% | CC(CCNC1=C(C=C(C#N)C=C1)[N+](=O)[O-])C | C12H15N3O2
